US04772703
(B) 3-[(1-methyl-2-benzimidazolyl)methoxy]benzenamine
To a suspension of 3-[(1-methyl-2-benzimidazolyl)methoxy]nitrobenzene (8 g) in ethanolic hydrochloric acid is added powdered iron. The reaction is stirred overnight at room temperature. After neutralization with saturated aqueous sodium bicarbonate, the mixture is extracted three times with methylene chloride. The extract is dried over magnesium sulfate and concentrated to give 7.2 g (100% yield) of product, m.p. 149°-153° C.

reactant | 3-[(1-methyl-2-benzimidazolyl)methoxy]nitrobenzene | 8 g | CN1C(=NC2=C1C=CC=C2)COC=2C=C(C=CC2)[N+](=O)[O-] | C15H13N3O3
solvent | hydrochloric acid | Cl | ClH
catalyst | iron | [Fe] | Fe
product | 3-[(1-methyl-2-benzimidazolyl)methoxy]benzenamine | 7.2 g, 100% yield | CN1C(=NC2=C1C=CC=C2)COC=2C=C(C=CC2)N | C15H15N3O
